Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.49811130809
[H:6].[O:1][O:2][C:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.35835836124
[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.80785572644
[C:4][O:5][C:6]#[C:7][H:8].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4][O:5][C:6]#[C:7][H:8],-0.65468742436
[H:6].[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.3937511061000003
[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.972625379669999
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:6]([H:7])([H:8])[O:9][H:10].[O:1]=[C:2]([H:3])[C:4]#[C:5],5.33760214075
[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.32011982144
[H:14].[H:1][C:2]([H:3])=[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.65602782891
[C:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.17308599603
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1].[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10],7.43044522322
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14],3.17771115317
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.97093070753
[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-6.4529432169800005
[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:4][O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:3],2.47040402102
[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[C:2][C:3]([H:4])([H:5])[H:6].[O:1],8.07053814555
[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]=[C:9]([H:10])[H:11].[H:8]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],-2.29987764716
[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-5.76937756096
[H:1][C:2]([H:3])[C:4]#[C:5][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.17553273166
[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7]>>[O:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.96539271061
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:6]([H:7])#[C:8][C:9]([H:10])[H:11].[H:1][O:2][C:3][O:4][H:5],2.31721103068
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.866504442101
[H:1][C:2]=[C:3]([H:4])[C@@:5]1([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1[H:12]>>[H:1][C:2]/[C:3]([H:4])=[C:5](/[C:6]([H:7])([H:8])[H:9])[O:10][C:11][H:12],1.7831691795900002
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.7678910359
[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],0.691371497021
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1][C:2]#[C:3][C:6]([H:7])([H:8])[H:9].[O:4][H:5],5.60246305472
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5],4.29831804683
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1],5.790670137719999
[C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8].[H:1]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8],-3.23741758268
[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:3][C:4]=[O:5].[O:1]=[C:2]=[C:6]([H:7])[C:8]([H:9])[H:10],2.84827720246
